US04447441
To a solution of 5-(3-aminopyrazol-1-yl)valeronitrile (7.0 g.) in acetonitrile (25 ml.) was added 2,2,2-trifluoroethylisothiocyanate (6.02 g.). After 15 minutes the solvent was evaporated in vacuo to give 5-(3-[3-(2,2,2-trifluoroethyl)thioureido]pyrazol-1-yl)valeronitrile as a white crystalline solid, m.p. 96°-98°.

reactant | 5-(3-aminopyrazol-1-yl)valeronitrile | 7.0 g | NC1=NN(C=C1)CCCCC#N | C8H12N4
reactant | 2,2,2-trifluoroethylisothiocyanate | 6.02 g | FC(CN=C=S)(F)F | C3H2F3NS
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 5-(3-[3-(2,2,2-trifluoroethyl)thioureido]pyrazol-1-yl)valeronitrile | FC(CNC(NC1=NN(C=C1)CCCCC#N)=S)(F)F | C11H14F3N5S
